US07671032B2
(1S)-1-Azidomethyl-3-methyl-butylamine (90)
((1S)-1-Azidomethyl-3-methyl-butyl)-carbamic acid tert-butyl ester (9.64 g, 39.78 mmol) was treated with TFA (30 mL) in DCM (150 mL) for 3 hrs, the mixture was evaporated under reduced pressure and the residue was dissolved in ethyl acetate and washed with aqueous 1 M K2CO3, dried with Na2SO4 and concentrated to a yellow liquid (4.55 g, 80%).

reactant | ((1S)-1-Azidomethyl-3-methyl-butyl)-carbamic acid tert-butyl ester | 39.78 mmol, 9.64 g | C(C)(C)(C)OC(N[C@@H](CC(C)C)CN=[N+]=[N-])=O | C11H22N4O2
reactant | TFA | 30 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | (1S)-1-Azidomethyl-3-methyl-butylamine | N(=[N+]=[N-])C[C@H](CC(C)C)N | C6H14N4
